US05721234
8-Acetamido-2-tetralone
Ammonia (300 mL) was condensed in a flask containing 8-Acetamido-2-methoxynaphthalene (24.5 g, 115 mmol), t-butyl alcohol (34 g, 0.46 mol) and THF (300 mL). Sodium (8 g, 0.35 mol) was added in portions and the mixture was stirred for 3 h and allowed to warm to room temperature. The mixture was poured onto ice and saturated sodium chloride, and then extracted with THF (3×). The combined organic layers were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and evaporated to give a dark solid. The residue was dissolved in 50% acetic acid and heated at 95° C. for 18 h. After evaporation, the residue was suspended in dimethyl ether and collected by filtration and dried. The filtrate was purified by silica gel chromatography (3:2 EtOAc:hexane) and combined with the other product to give a tan solid (10 g).

reactant | Ammonia | 300 mL | N | H3N
reactant | 8-Acetamido-2-methoxynaphthalene | 115 mmol, 24.5 g | C(C)(=O)NC=1C=CC=C2C=CC(=CC12)OC | C13H13NO2
reactant | t-butyl alcohol | 0.46 mol, 34 g | C(C)(C)(C)O | C4H10O
reactant | Sodium | 0.35 mol, 8 g | [Na] | Na
reactant | sodium chloride | [Cl-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 8-Acetamido-2-tetralone | 10 g | C(C)(=O)NC=1C=CC=C2CCC(CC12)=O | C12H13NO2
